US09169203B2
Step 1: Synthesis of octyl 2-hydroxy-4-(methylthio)butanoate.
To a multi-neck 5 L round bottom flask fitted with a mechanical stirrer, reflux condenser, and dean stark trap was added 2-hydroxy-4-(methylthio)butanoic acid (650 g, 4.33 mol, obtained for example by stirring Alimet over activated charcoal, filtering and concentrating in a rotovap), 1-octanol (845.4 g, 6.49 mol), sodium hydrogen sulfate (10.4 g, 86 mmol), and toluene (2.7 L).The resulting solution was heated to reflux with removal of water (˜146 mL) during the course of about 5.5 hours and the reaction was monitored by GC analysis. The reaction was cooled to room temperature overnight and then washed with saturated NaHCO3 (1×1.5 L), DI water (1×1.5 L) and brine (1×1.5 L), dried over sodium sulfate, filtered and evaporated to give a dark oil (1,525 g). The oil was purified by kugelrohr distillation at 130-150° C. and 0.1 mm Hg vacuum to give a pale yellow oil (507.6 g, 45%). m/z 285 (MNa+).

reactant | 2-hydroxy-4-(methylthio)butanoic acid | OC(C(=O)O)CCSC | C5H10O3S
reactant | Alimet | CSCCC(C(=O)O)O | C5H10O3S
reactant | charcoal | C | CH4
reactant | 1-octanol | 6.49 mol, 845.4 g | C(CCCCCCC)O | C8H18O
reactant | sodium hydrogen sulfate | 86 mmol, 10.4 g | S(=O)(=O)(O)[O-].[Na+]
solvent | water | ˜146 mL | O | H2O
solvent | toluene | 2.7 L | C1(=CC=CC=C1)C | C7H8
product | octyl 2-hydroxy-4-(methylthio)butanoate | 1,525 g | OC(C(=O)OCCCCCCCC)CCSC | C13H26O3S
